US05939451
0.75 g (0.00205 mol) of 4-amino-N-(2,6-bis-propylamino-pyrimidin-4-yl)-benzenesulfonamide was dissolved in 100 ml of methanol, treated with 1.5 ml (0.0062 mol) of 3.5N ethanolic hydrochloric acid and stirred at 0° C. for 2 hours. The solution was freed completely from solvent and the residue was recrystallized from ethanol/diethyl ether. There was obtained 0.86 g (82%) of 4-amino-N-(2,6-bis-propylamino-pyrimidin-4-yl)-benzenesulfonamide hydrochloride as beige crystals; m.p. 189-195° C.

reactant | 4-amino-N-(2,6-bis-propylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.00205 mol, 0.75 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NCCC)NCCC | C16H24N6O2S
reactant | hydrochloric acid | 0.0062 mol, 3.5N, 1.5 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 4-amino-N-(2,6-bis-propylamino-pyrimidin-4-yl)-benzenesulfonamide hydrochloride | 0.86 g, 82% | Cl.NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NCCC)NCCC | InChI=1S/C16H24N6O2S.ClH/c1-3-9-18-14-11-15(21-16(20-14)19-10-4-2)22-25(23,24)13-7-5-12(17)6-8-13;/h5-8,11H,3-4,9-10,17H2,1-2H3,(H3,18,19,20,21,22);1H
